US08293768B2
Synthesis of 1-(4-(5-methyl-1H-pyrazole-1-carbonyl)benzyl)-3-(4-methylthiazol-2-yl)imidazolidin-2-one
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 3-methylpyrazole to react with 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 24% yield: mp 96-97° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.28 (d, J=2.7 Hz, 1H), 8.09 (d, J=8.4 Hz, 2H), 7.43 (d, J=8.4 Hz, 2H), 6.42 (d, J=0.9 Hz, 1H), 6.30 (d, J=2.7 Hz, 1H), 4.53 (s, 2H), 4.10-4.05 (m, 2H), 3.48-3.42 (m, 2H), 2.31 (s, 3H), 2.30 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 165.5, 158.7, 155.9, 154.6, 147.2, 141.1, 132.1, 131.3, 131.1, 127.7, 110.4, 106.9, 47.7, 42.3, 42.0, 17.3, 14.1; MS (ES+) m/z 382.2 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-methylpyrazole | CC1=NNC=C1 | C4H6N2
reactant | 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O | C15H15N3O3S
product | 1-(4-(5-methyl-1H-pyrazole-1-carbonyl)benzyl)-3-(4-methylthiazol-2-yl)imidazolidin-2-one | 24% yield | CC1=CC=NN1C(=O)C1=CC=C(CN2C(N(CC2)C=2SC=C(N2)C)=O)C=C1 | C19H19N5O2S
